*
* NGSPICE simulation script
*Title: t2.1
*

* forces current values to be saved
.options savecurrents


*voltage sources
Vs 1 0 0V

Vnull 0 0b 0.V

Hvd 5 8 Vnull 0kOhm


*current sources
Gib 6 3 2 5 0mS

*capacitor
C 6 8 1.00970251859uF
.ic V(6) = 8.747018e+00 V(8) = 0


*resistors
R1 1 2 1.02738610688kOhm

R2 3 2 2.03394761163kOhm

R3  2 5 3.13880655715kOhm

R4 5 0 4.00338881943kOhm

R5 6 5 3.07163426496kOhm

R6 0b 7 2.05278260557kOhm

R7 7 8 1.01283324471kOhm

.op
.end


*Control comands
.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op
*echo  "op_TAB"
*print @Vs[i] @Hvd[i] 
*print all
*echo  "op_END"

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy t2.3.ps V(6)
echo t2.3_FIG

.endc
